US08703758B2
L) N-(3-{trans-4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]cyclohexyl}-1-methylpropyl)acetamide
A mixture of 2-[trans-4-(3-azidobutyl)cyclohexyl]-6-(cyclopropylmethoxy)-2H-indazole (2.45 g), triphenylphosphine (1.75 g), water (30 mL) and THF (30 mL) was stirred at room temperature for 3 days. The organic solvent was evaporated under reduced pressure, and the obtained aqueous solution was acidified with 6N hydrochloric acid (pH=1), and washed twice with diethyl ether. The aqueous solution was basified with potassium carbonate and extracted with a mixed solvent of ethyl acetate/THF (10/1). The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was dissolved in pyridine (30 mL), and acetic anhydride (3.15 mL) was added at room temperature. The reaction mixture was stirred at room temperature for 3 hr, and the solvent was evaporated under reduced pressure. The residue was diluted with 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate, ethyl acetate/methanol), and the obtained solid was recrystallized from hexane/ethyl acetate to give the title compound (1.29 g) as colorless crystals.

reactant | 2-[trans-4-(3-azidobutyl)cyclohexyl]-6-(cyclopropylmethoxy)-2H-indazole | 2.45 g | N(=[N+]=[N-])C(CC[C@@H]1CC[C@H](CC1)N1N=C2C=C(C=CC2=C1)OCC1CC1)C | C21H29N5O
reactant | triphenylphosphine | 1.75 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 30 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-(3-{trans-4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]cyclohexyl}-1-methylpropyl)acetamide | 1.29 g | C1(CC1)COC=1C=CC2=CN(N=C2C1)[C@@H]1CC[C@H](CC1)CCC(C)NC(C)=O | C23H33N3O2
